US07598232B2
To a solution of 2,4,6trimethoxystyryl-3-amino-4-methoxybenzylsulfone (10 mmol) in toluene, chloroacetyl chloride (10 mmol) in dioxane (10 mL) was added and the solution was refluxed for 2 h. The solution was cooled and the solvent was removed in a rotary evaporator to give 2,4,6-trimethoxystyryl-3-chloroacetamido-4-methoxybenzylsulfone in 88% yield. M.p. 163-165° C. NMR (DMSO-d6) δ 3.83(s, 3H), 3.84(s, 6H), 3.85(s, 3H), 4.14(s, 2H), 4.22(s, 2H) 6.08 (s, 2H), 7.11-7.20(d, 1H vinylic), 6.90-8.33(m, aromatic), 8.89(s, 1H).

reactant | 2,4,6trimethoxystyryl-3-amino-4-methoxybenzylsulfone | 10 mmol | COC1=C(C=CC(C2=CC(=C(C=C2)OC)N)S(=O)(=O)C(C2=CC(=C(C=C2)OC)N)C=CC2=C(C=C(C=C2OC)OC)OC)C(=CC(=C1)OC)OC | C38H44N2O10S
reactant | chloroacetyl chloride | 10 mmol | ClCC(=O)Cl | C2H2Cl2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2,4,6-trimethoxystyryl-3-chloroacetamido-4-methoxybenzylsulfone | 88% yield | COC1=C(C=CC(C2=CC(=C(C=C2)OC)NC(CCl)=O)S(=O)(=O)C(C2=CC(=C(C=C2)OC)NC(CCl)=O)C=CC2=C(C=C(C=C2OC)OC)OC)C(=CC(=C1)OC)OC | C42H46Cl2N2O12S
